US06294580B1
2-(1-methyl-4-phenyl-1H-imidazol-2-yl)-ethanol
A solution of 674 mg (4.26 mmol) of 1-methyl-4-phenylimidazole (Kashima, C.; Harada, Y.; Hosomi, A. Heterocycles 1993, 35, 433) in 8.5 mL of THF at −78° C. was treated with 1.9 mL (4.69 mmol) of a 2.5 M nBuLi in hexanes solution. After stirring for 10 min, 1.1 mL (21.3 mmol) of ethylene oxide was added. The reaction was stirred for min then warmed to 25° C. and stirred for 1 h. Upon cooling to 0° C., 1.1 mL (21.3 mmol) of ethylene oxide was added, and the reaction was warmed to 25° C. and stirred overnight. The reaction was poured into H2O and extracted with Et2O. The combined organics were dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified by silica gel flash column chromatography using EtOAc/MeOH (95:5), and the collected product was recrystallized from CH2Cl2/EtOAc to give 178 mg (21%) of title compound as a white solid: low resolution MS (ES) m/e 225 (MNa+), 203 (MH+).

reactant | 1-methyl-4-phenylimidazole | 4.26 mmol, 674 mg | CN1C=NC(=C1)C1=CC=CC=C1 | C10H10N2
reactant | nBuLi | 2.5 M | [Li]CCCC
reactant | ethylene oxide | 21.3 mmol, 1.1 mL | C1CO1 | C2H4O
reactant | ethylene oxide | 21.3 mmol, 1.1 mL | C1CO1 | C2H4O
reactant | H2O | O | H2O
solvent | THF | 8.5 mL | C1CCOC1 | C4H8O
product | 2-(1-methyl-4-phenyl-1H-imidazol-2-yl)-ethanol | 178 mg, 21% | CN1C(=NC(=C1)C1=CC=CC=C1)CCO | C12H14N2O
